US09314408B2
1,3,5-triacetyloxytricyclo[3.3.1.13,7]decane (“adamantane” Plasticizer)
92.12 g (0.5 mol) of 1,3,5-adamantanetriol are suspended in 153.14 g (1.5 mol) of acetic anhydride. Subsequently, 10 drops of concentrated sulfuric acid are added and the mixture is stirred on a rotary evaporator (without vacuum) until a homogeneous solution has formed. Subsequently, the mixture is heated to 100° C. under reflux for 2 h. After cooling, the reaction mixture is added to 300 ml of ice-water and extracted with dichloromethane. The combined organic phases are deacidified with sodium carbonate solution and washed with water. The mixture is dried over magnesium sulfate and filtered, and the solvent is removed under reduced pressure. 150.50 g (0.48 mol; 97.0%) of a colorless oil are obtained.

reactant | 1,3,5-adamantanetriol | 0.5 mol, 92.12 g | C12(CC3(CC(CC(C1)C3)(C2)O)O)O | C10H16O3
reactant | acetic anhydride | 1.5 mol, 153.14 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
product | 1,3,5-triacetyloxytricyclo[3.3.1.13,7]decane | C(C)(=O)OC12CC3(CC(CC(C1)C3)(C2)OC(C)=O)OC(C)=O | C16H22O6
